US05300687
Diethyl 2-trifluoromethylbenzylphosphonate
A mixture of 2-trifluoromethylbenzyl chloride (2.0 g, 10.0 mmol) and triethyl phosphite (2.13 g, 13 mmol) was heated at 160° C. under nitrogen for 3 hours. The excess triethyl phosphite was removed by distillation and the crude product obtained was distilled at 87°-90° C. (0.05 mm Hg) and isolated as a colorless oil; yield, 1.68 g, 56.8%; D.C.I.M.S.[MH+,297].

reactant | 2-trifluoromethylbenzyl chloride | 10.0 mmol, 2.0 g | FC(C1=C(CCl)C=CC=C1)(F)F | C8H6ClF3
reactant | triethyl phosphite | 13 mmol, 2.13 g | P(OCC)(OCC)OCC | C6H15O3P
product | Diethyl 2-trifluoromethylbenzylphosphonate | FC(C1=C(CP(OCC)(OCC)=O)C=CC=C1)(F)F | C12H16F3O3P
